US06287794B1
2-(S)-[2-(S)-Allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester
To 2-(S)-[2-(S)-allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride (3.06 g, 5.8 mmol) in 100 ml of water and 30 ml of THF was added lithium hydroxide hydrate (0.49 g, 11.6 mmol). The solution was stirred at room temperature for 12 hours, evaporated, and freeze-dried. The residue was purified by chromatography on Sephadex LH20 employing n-butanol/glacial acetic acid/water (17/1/2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water, and the aqueous solution was freeze-dried. Yield: 2.7 g (97%). MS: m/z=477.4 (M+H)+.

reactant | 2-(S)-[2-(S)-allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride | 5.8 mmol, 3.06 g | Cl.COC([C@H](CCC(=O)OC(C)(C)C)NC([C@H](CC1=CC=C(C=C1)C(N)=N)NC(=O)OCC=C)=O)=O
reactant | lithium hydroxide hydrate | 11.6 mmol, 0.49 g | O.[OH-].[Li+]
solvent | water | 100 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(S)-[2-(S)-Allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC([C@H](CC1=CC=C(C=C1)C(N)=N)NC(=O)OCC=C)=O)=O | C23H32N4O7
